US08461158B2
Reaction of 1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-4-piperidinamine (460 mg, 1.0 mmol) with methanesulfonyl chloride (1 mL, 12.7 mmol) and K2CO3 (2.0 g, 14.5 mmol) in CH2Cl2 (10 mL) gave N-{1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-4-piperidinyl}methanesulfonamide in 97% yield: mp (CH2Cl2/MeOH) 225-228° C.; 1H NMR (DMSO-d6) δ 7.88 (d, J=8.0 Hz, 1H), 7.68 (t, JHF=52.9 Hz, 1H), 7.41 (t, J=8.2 Hz, 1H), 7.15 (d, J=5.7 Hz, 1H), 6.95 (d, J=7.8 Hz, 1H), 4.52-4.45 (m, 2H), 3.97 (s, 3H), 3.81-3.79 (m, 4H), 3.70-3.69 (m, 4H), 3.50 (br m, 1H), 3.29-3.21 (m, 2H), 2.96 (s, 3H), 1.96 (br, 2H), 1.44-1.42 (m, 2H); Anal. Calcd. for C22H28F2N8O5S: C, 49.1; H, 5.2; N, 20.8. Found: C, 49.2; H, 5.2; N, 20.9%.

reactant | 1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-4-piperidinamine | 1.0 mmol, 460 mg | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCC(CC1)N)C=CC=C2OC)F | C21H26F2N8O2
reactant | methanesulfonyl chloride | 12.7 mmol, 1 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | K2CO3 | 14.5 mmol, 2.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-{1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-4-piperidinyl}methanesulfonamide | 97% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCC(CC1)NS(=O)(=O)C)C=CC=C2OC)F | C22H28F2N8O4S
